US08350028B2
N2-(2-Methoxy-benzyl)-N6-(3-morpholin-4-yl-propyl)-quinoline-2,6-diamine
The title compound, MS: m/e=407.5 (M+H+), was prepared in accordance with the general method of example 1 from 2,6-dichloroquinoline, 2-methoxybenzylamine and 4-(3-aminopropyl)morpholine.

reactant | 2,6-dichloroquinoline | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | 4-(3-aminopropyl)morpholine | NCCCN1CCOCC1 | C7H16N2O
product | N2-(2-Methoxy-benzyl)-N6-(3-morpholin-4-yl-propyl)-quinoline-2,6-diamine | COC1=C(CNC2=NC3=CC=C(C=C3C=C2)NCCCN2CCOCC2)C=CC=C1 | C24H30N4O2
